US05246915
2.40 g of N-(7-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)glycine methyl ester are added dropwise with cooling to 5° C. to 5.52 g of formic acid. Additionally 1.79 g of acetic anhydride are added, and the mixture is kept at room temperature for 70 hours. Destillation under vacuum affords 2.7 g (97% of theory) of N-formyl-N-(7-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)glycine methyl ester as a colourless resin.

reactant | N-(7-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)glycine methyl ester | 2.40 g | COC(CNC1CCCC2=CC=C(C=C12)OC)=O | C14H19NO3
reactant | acetic anhydride | 1.79 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | C(=O)O | CH2O2
product | N-formyl-N-(7-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)glycine methyl ester | 2.7 g, 97% | COC(CN(C1CCCC2=CC=C(C=C12)OC)C=O)=O | C15H19NO4
